US08304419B2
3-({6-bromo-2-fluoro-3-[(6-oxo-6,7-dihydro-1H-purin-1-yl)methyl]phenyl}oxy)-5-chlorobenzonitrile
The title compound was prepared in a manner similar to that described herein using 3-{[3-(aminomethyl)-6-bromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.15 g, 0.422 mmol), ethyl 4-{[(1E)-(dimethylamino)methylidene]amino}-1H-imidazole-5-carboxylate (0.098 g, 0.464 mmol) and phenol (0.052 g, 0.548 mmol) in DCM (2 mL) to give 0.070 (34%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.44 (s, 1H), 8.17 (s, 1H), 7.82 (s, 1H), 7.59 (d, 1H), 7.52 (s, 1H), 7.46 (s, 1H), 7.15 (t, 1H), 5.28 (s, 2H).

reactant | 3-{[3-(aminomethyl)-6-bromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.422 mmol, 0.15 g | NCC=1C(=C(C(=CC1)Br)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9BrClFN2O
reactant | ethyl 4-{[(1E)-(dimethylamino)methylidene]amino}-1H-imidazole-5-carboxylate | 0.464 mmol, 0.098 g | CN(C)\C=N\C=1N=CNC1C(=O)OCC | C9H14N4O2
reactant | phenol | 0.548 mmol, 0.052 g | C1(=CC=CC=C1)O | C6H6O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-({6-bromo-2-fluoro-3-[(6-oxo-6,7-dihydro-1H-purin-1-yl)methyl]phenyl}oxy)-5-chlorobenzonitrile | BrC1=CC=C(C(=C1OC=1C=C(C#N)C=C(C1)Cl)F)CN1C=NC=2N=CNC2C1=O | C19H10BrClFN5O2
